US04846875
A solution of 2-[(5-amino-2,4-dichlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone (16.3 g, 0.564 mole) in concentrated hydrochloric acid (75 ml) was cooled to 0° C., and a solution of sodium nitrite (3.9 g, 0.564 mole) in water (50 ml) was added dropwise with the tip of the addition funnel below the surface of the solution. The reaction mixture temperature was kept below 2° C. during the addition. Upon completion of addition, the reaction mixture was stirred at 0° C. for 30 minutes, and then stannous chloride (28 g, 0.124 mole) in concentrated hydrochloric acid (50 ml) was added dropwise maintaining the temperature below 2° C. The reaction mixture was stirred for one hour at 0° C., and then a tan solid was removed by filtration to yield 10.0 g of [2,4-dichloro-5-[(4,4-dimethyl-3-oxoisoxazolidin-2-yl)methyl]phenyl]hydrazine hydrochloride; m.p. 202°-205° C.

reactant | 2-[(5-amino-2,4-dichlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | 0.564 mole, 16.3 g | NC=1C(=CC(=C(C1)CN1OCC(C1=O)(C)C)Cl)Cl | C12H14Cl2N2O2
reactant | sodium nitrite | 0.564 mole, 3.9 g | N(=O)[O-].[Na+]
solvent | hydrochloric acid | 75 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | [2,4-dichloro-5-[(4,4-dimethyl-3-oxoisoxazolidin-2-yl)methyl]phenyl]hydrazine hydrochloride | 10.0 g | Cl.ClC1=C(C=C(C(=C1)Cl)CN1OCC(C1=O)(C)C)NN | InChI=1S/C12H15Cl2N3O2.ClH/c1-12(2)6-19-17(11(12)18)5-7-3-10(16-15)9(14)4-8(7)13;/h3-4,16H,5-6,15H2,1-2H3;1H
